US06156767
{2-[5-(1,1-Dimethyl-2-oxo-ethyl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester
To a solution of (2-{2-(3,5-dimethylphenyl)-5-[1-(methoxymethylcarbamoyl)-1-methyl-ethyl]-1H-indol-3-yl}ethyl)carbamic acid tert-butyl ester (296 mg in 5 mL dry tetrahydrofuran) at 0° C. was added 1.8 mL of a 1M lithium aluminum hydride solution in tetrahydrofuran and the mixture stirred at low temperature. After 1 hour, the reaction was quenched by the careful addition of 0.3M aqueous sodium bisulfate solution. The resulting mixture was extracted with ethyl acetate and the organic portion washed successively with 0.3M aqueous sodium bisulfate, water and brine. This was then dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography on silica gel (hexane:ethyl acetate, 85:15) to give the title compound (253 mg).

reactant | (2-{2-(3,5-dimethylphenyl)-5-[1-(methoxymethylcarbamoyl)-1-methyl-ethyl]-1H-indol-3-yl}ethyl)carbamic acid tert-butyl ester | 5 mL, 296 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)C(C)(C)C(NCOC)=O)C1=CC(=CC(=C1)C)C)=O | C29H39N3O4
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | {2-[5-(1,1-Dimethyl-2-oxo-ethyl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester | 253 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)C(C=O)(C)C)C1=CC(=CC(=C1)C)C)=O | C27H34N2O3
